US03946078
Thus, e.g., if 2-methylene-6,6-dimethyl-1-[1-hydroxy-but-2-ynyl]-cyclohexane is reduced by means of LiAlH4, trans-2-methylene-6,6-dimethyl-1-[1-hydroxy-but-2-enyl]-cyclohexane is obtained.

reactant | 2-methylene-6,6-dimethyl-1-[1-hydroxy-but-2-ynyl]-cyclohexane | C=C1C(C(CCC1)(C)C)C(C#CC)O | C13H20O
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | trans-2-methylene-6,6-dimethyl-1-[1-hydroxy-but-2-enyl]-cyclohexane | C=C1C(C(CCC1)(C)C)C(\C=C\C)O | C13H22O
